US06784192B2
3-Methylthio-2-thiophenecarboxaldehyde
4.44 g of 3-bromo-2-thiophenecarboxaldehyde and 1.63 g of sodium thiomethoxide were dissolved in 20 ml of N,N-dimethylformamide, and the mixture was stirred for 3 hours under ice-cooling. Ethyl acetate was added to the reaction solution. The mixture was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting crude product was purified by silica gel column chromatography (ethyl acetate:hexane=1:9), to give 3.36 g of the title compound as a yellow oil.

reactant | 3-bromo-2-thiophenecarboxaldehyde | 4.44 g | BrC1=C(SC=C1)C=O | C5H3BrOS
reactant | sodium thiomethoxide | 1.63 g | C[S-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-Methylthio-2-thiophenecarboxaldehyde | 3.36 g | CSC1=C(SC=C1)C=O | C6H6OS2
